US06657062B1
Preparation of (−)-trans-1-Benzyl-4-(4-fluorophenyl)-3-(3,4-methylenedioxyphenoxymethyl)piperidine (VIa.)
To a solution containing 7.54 g (0.02 mol) of (+)-cis-1-benzyl-4-(4-fluorophenyl)-3-mesyloxymethylpiperidine in 120 ml of tertiary butanol, 3 g (0.022 mol) of sesamol and 3.35 g (0.03 mol) of potassium tertiary butoxide are added and the mixture is boiled under reflux for 12 hours. After completion of the reaction the mixture is evaporated and 100 ml of dichloromethane and 50 ml of water are added to the residue. After separation, the organic phase is washed with water until neutral, dried over a drying agent and after filtration the filtrate is evaporated to solvent-free. The evaporation residue is recrystallized from 25 ml of isopropanol. The precipitated product is filtered at 0° C. to obtain 5.37 g (64%) of title compound, m.p.: 98-100° C.; [α]D20−37.1° (c=1, chloroform).

reactant | (+)-cis-1-benzyl-4-(4-fluorophenyl)-3-mesyloxymethylpiperidine | 0.02 mol, 7.54 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)C1=CC=C(C=C1)F)COS(=O)(=O)C | C20H24FNO3S
reactant | sesamol | 0.022 mol, 3 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | potassium tertiary butoxide | 0.03 mol, 3.35 g | CC(C)([O-])C.[K+]
solvent | tertiary butanol | 120 ml | C(C)(C)(C)O | C4H10O
product | (−)-trans-1-Benzyl-4-(4-fluorophenyl)-3-(3,4-methylenedioxyphenoxymethyl)piperidine | 5.37 g, 64% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)COC1=CC2=C(C=C1)OCO2 | C26H26FNO3
